US07157487B2
(Step 4) Synthesis of 2-(2-methylphenylamino)-5-benzoxazolylacetic acid
Methyl 2-(2-methylphenylamino)-5-benzoxazolylacetate (2.32 g, 7.86 mmol) was dissolved in THF (40 ml). After addition of 0.25N NaOH (40 ml) under stirring at room temperature, the mixture was stirred for 15 hours. The residue, which had been obtained by distilling the reaction mixture under reduced pressure to remove the solvent, was acidified with 1N HCl. The crystals thus obtained were collected by filtration under reduced pressure, washed with water, dried under reduced pressure, whereby the title compound (894 mg) was obtained as a pale black crystalline powder. The water layer was extracted with a chloroform/methanol (10/1) mixture. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, whereby the title compound (1.03 g) was obtained as a colorless solid (total yield: 88%).

reactant | Methyl 2-(2-methylphenylamino)-5-benzoxazolylacetate | 7.86 mmol, 2.32 g | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=C(C=C2)CC(=O)OC | C17H16N2O3
reactant | NaOH | 0.25N, 40 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(2-methylphenylamino)-5-benzoxazolylacetic acid | yield: 88% | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=C(C=C2)CC(=O)O | C16H14N2O3
